US08865726B2
1-Ethyl-3-(3-dimethylaminopropyl) carbodiimide (0.1031 g, 0.5378 mmol) was added to a mixture of (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoic acid (0.075 g, 0.1793 mmol) and hydroxybenzotriazole (0.073 g, 0.5378 mmol) in DMF (0.6 mL) at ambient temperature. After stirring for 10 minutes, hydrazine monohydrate (0.02609 mL, 0.5378 mmol), followed by triethylamine (0.07496 mL, 0.5378 mmol) were added. The mixture was stirred at ambient temperature for 4 hours, diluted with EtOAc, washed with aqueous saturated NH4Cl, brine, dried (phase separator silicone treated filter paper), concentrated and purified on silica gel (2-8% MeOH in DCM) to provide (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzohydrazide (0.061 g, 79% yield) as a clear oil.

reactant | 1-Ethyl-3-(3-dimethylaminopropyl) carbodiimide | 0.5378 mmol, 0.1031 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoic acid | 0.1793 mmol, 0.075 g | FC1=CC=C(C=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C(=O)O)C=C2 | C22H15FN4O4
reactant | hydroxybenzotriazole | 0.5378 mmol, 0.073 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | hydrazine monohydrate | 0.5378 mmol, 0.02609 mL | O.NN
reactant | triethylamine | 0.5378 mmol, 0.07496 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzohydrazide | 0.061 g, 79% yield | FC1=CC=C(C=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C(=O)NN)C=C2 | C22H17FN6O3
